US07012075B2
To an ice cold solution of N-(4-bromo-3-methylisothiazol-5-yl)-L-leucine (9.83 g, 32 mmol), PyBOP (18.6 g, 35.7 mmol) and 2-aminoacetonitrile hydrochloride (6.5 g, 70.3 mmol) in DMF (250 mL) was slowly added over 5 min triethylamine (15.6 mL, 112 mmol). The resulting suspension was stirred at room temperature for 18 h. The reaction mixture was partitioned between EtOAc and half-saturated NaHCO3. The organic layer was washed once with water, dried over Na2SO4 and concentrated in vacuo. The crude product was purified by flash chromatography using EtOAc in hexane to give a colorless syrup. This syrup was disolved in Et2O, washed once with 3% HCl and once with diluted NaHCO3, dried over Na2SO4 and concentrated in vacuo to give N2-(4-bromo-3-methylisothiazol-5-yl)-N1-(cyanomethyl)-L-leucinamide as a white foam.

reactant | N-(4-bromo-3-methylisothiazol-5-yl)-L-leucine | 32 mmol, 9.83 g | BrC=1C(=NSC1N[C@@H](CC(C)C)C(=O)O)C | C10H15BrN2O2S
reactant | PyBOP | 35.7 mmol, 18.6 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 2-aminoacetonitrile hydrochloride | 70.3 mmol, 6.5 g | Cl.NCC#N
reactant | triethylamine | 112 mmol, 15.6 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
product | N2-(4-bromo-3-methylisothiazol-5-yl)-N1-(cyanomethyl)-L-leucinamide | BrC=1C(=NSC1N[C@@H](CC(C)C)C(=O)NCC#N)C | C12H17BrN4OS
